US09290519B2
Preparation of 7-bromoindan-1-ol
To a mixture of 100 g (746 mmol) of indan-1-ol, 250 ml (1.64 mol) of N,N,N′,N′-tetramethylethylenediamine, and 3000 ml of pentane cooled to −20° C. 655 ml (1.64 mol) of 2.5M nBuLi in hexanes was added. After that the reaction mixture was refluxed for 12 h and then cooled to −80° C. Further on, 225 ml (1.87 mol) of 1,2-dibromotetrafluoroethane was added, and the resulting mixture was allowed to warm to room temperature. This mixture was stirred for 12 h, and then 100 ml of water was added. The resulting mixture was diluted with 2000 ml of water, and the organic layer was separated. The aqueous layer was extracted with 3×400 ml of toluene. The combined organic extract was dried over Na2SO4 and evaporated to dryness. The residue was distilled using a Kugelrohr apparatus, b.p. 120-140° C./1 mbar. The resulting yellow oil was dissolved in 50 ml of triethylamine, and the obtained solution added dropwise to a stirred solution of 49.0 ml (519 mmol) of acetic anhydride and 4.21 g (34.5 mmol) of 4-(dimethylamino)pyridine in 70 ml of triethylamine. The resulting mixture was stirred for 5 min, then 1000 ml of water was added, and stirring was continued for 12 h. After that the reaction mixture was extracted with 3×200 ml of ethyl acetate. The combined organic extract was washed with aqueous Na2CO3, dried over Na2SO4, and evaporated to dryness. The residue was purified by flash chromatography on silica gel 60 (40-63 um, eluent: hexane-ethyl acetate=30:1, vol.). The resulting ester was dissolved in 1000 ml of methanol, 50.5 g (900 mmol) of KOH was added, and this mixture was refluxed for 3 h. The reaction mixture was then cooled to room temperature and poured into 4000 ml of water. Crude product was extracted with 3×300 ml of dichloromethane. The combined organic extract was dried over Na2SO4 and evaporated to dryness. Yield 41.3 g (26%) of a white crystalline solid. Anal. Calc for C9H9BrO: C, 50.73; H, 4.26. Found: C, 50.85; H, 4.48. 1H NMR (CDCl3): δ 7.34 (d, J=7.6 Hz, 1H, 6-H); 7.19 (d, J=7.4 Hz, 1H, 4-H); 7.12 (dd, J=7.6 Hz, J=7.4 Hz, 1H, 5-H); 5.33 (dd, J=2.6 Hz, J=6.9 Hz, 1H, 1-H), 3.18-3.26 (m, 1H, 3- or 3′-H), 3.09 (m, 2H, 3,3′-H); 2.73 (m, 2H, 2,2′-H).

reactant | indan-1-ol | 746 mmol, 100 g | C1(CCC2=CC=CC=C12)O | C9H10O
reactant | N,N,N′,N′-tetramethylethylenediamine | 1.64 mol, 250 ml | CN(CCN(C)C)C | C6H16N2
reactant | nBuLi | 1.64 mol, 2.5M, 655 ml | [Li]CCCC
reactant | 1,2-dibromotetrafluoroethane | 1.87 mol, 225 ml | BrC(C(Br)(F)F)(F)F | C2Br2F4
reactant | acetic anhydride | 519 mmol, 49.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | KOH | 900 mmol, 50.5 g | [OH-].[K+]
solvent | water | 2000 ml | O | H2O
catalyst | 4-(dimethylamino)pyridine | 34.5 mmol, 4.21 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | triethylamine | 70 ml | C(C)N(CC)CC | C6H15N
solvent | water | 4000 ml | O | H2O
solvent | water | 1000 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | pentane | 3000 ml | CCCCC | C5H12
product | 7-bromoindan-1-ol | BrC=1C=CC=C2CCC(C12)O | C9H9BrO
